data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_607858_1,[C@@:1]([C:2]([H:12])([H:13])[H:14])([N:6]([H:10])[H:11])([O:7][H:9])[N:8]=[C:5]([C:3]([H:16])([H:17])[H:18])[C:4]([H:15])([H:19])[H:20]>>[C:1](\[C:2]([H:12])([H:13])[H:14])([O:7][H:9])=[N:8]/[C:5]([C:3]([H:16])([H:17])[H:18])([C:4]([H:15])([H:19])[H:20])[N:6]([H:10])[H:11],53.51696500003342
MR_164251_1,[C:1]([C:4]([C:2]([H:17])([H:18])[H:20])=[C:8]([C:7](=[C:3]([N:5]([H:9])[H:10])[N:6]([H:11])[H:12])[H:13])[H:14])([H:15])([H:16])[H:19]>>[C:1]([C:4]1([C:2]([H:17])([H:18])[H:20])[C:3]([N:5]([H:9])[H:10])([N:6]([H:11])[H:12])[C:7]([H:13])=[C:8]1[H:14])([H:15])([H:16])[H:19],49.46205999999833
MR_297019_0,[C:1]([C:2]([H:11])([H:12])[H:13])([N:3]([H:8])[H:9])([C:4](=[O:6])[H:10])[O:5][H:7]>>[C:1]1([C:2]([H:11])([H:12])[H:13])([O:5][H:7])[C:4]([N:3]([H:8])[H:9])([H:10])[O:6]1,53.0457124999748
MR_1527_0,[C:1](/[C:5](=[C:4]([C:2](\[N:3]([H:7])[H:8])=[N:6]/[H:9])/[H:10])[H:11])([H:12])([H:13])[H:14]>>[C:1]([C:5]1([H:11])[C:4]([H:10])=[C:2]([N:3]([H:7])[H:8])[N:6]1[H:9])([H:12])([H:13])[H:14],59.20399750001408
MR_641016_1,[N:1](\[C:3]([C:6](/[C:2]([N:5]([H:12])[H:13])=[N:8]/[H:14])([O:9][H:11])[H:15])=[C:7]([H:16])[H:17])=[N:4]/[H:10]>>[N:1](/[C:2]([N:5]([H:12])[H:13])=[N:8]/[H:14])([C:3]([C:6](=[O:9])[H:15])=[C:7]([H:16])[H:17])[N:4]([H:10])[H:11],60.938407499986766
MR_259852_2,[C:1](\[N:2]([H:9])[H:10])([O:4][C:3](=[O:7])[H:11])=[N:6]\[O:5][H:8]>>[C:1]([N:2]([H:9])[H:10])(=[O:4])[N:6]([C:3](=[O:7])[H:11])[O:5][H:8],21.31805750000197
MR_518324_0,[C@:1]([C:2]([H:11])([H:12])[H:13])([N:3]([H:9])[H:10])([O:5][O:4][O:6][H:7])[H:8]>>[C@:1]([N:3]([H:9])[H:10])([O:4][O:6][H:7])([O:5][C:2]([H:11])([H:12])[H:13])[H:8],50.74906250003053
MR_455403_0,[C:1]1([H:12])([H:13])[N:4]([H:11])[N:3]([O:7][H:9])[C:5]([O:8][H:10])=[C:6]1[C:2]([H:14])([H:15])[H:16]>>[C:1]1([H:12])([H:13])[N:4]([H:11])[C@:6]1([C:2]([H:14])([H:15])[H:16])/[C:5](=[N:3]/[O:7][H:9])[O:8][H:10],52.22180500002182
MR_432329_1,[C:1]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])=[N:9][C:8]1([H:11])[C:7]([C:2]([C:6]([H:23])([H:24])[H:25])([H:12])[H:13])([C:5]([H:20])([H:21])[H:22])[O:10]1>>[C:1]([C:2]([C:6]([H:23])([H:24])[H:25])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])/[N:9]=[C:8](\[C:7]([C:5]([H:20])([H:21])[H:22])=[O:10])[H:11],60.4389175000351
MR_601685_0,[C:1]1([C:2]([H:13])([H:14])[H:15])([H:10])[N:3]([H:9])[N:6]1[O:7][C:4]([N:5]([H:11])[H:12])=[O:8]>>[C:1]([C:2]([H:13])([H:14])[H:15])([N:3]([C:4]([N:5]([H:11])[H:12])=[O:8])[H:9])([N:6]=[O:7])[H:10],44.15905750001116
MR_395553_0,[C:1](/[C:8](=[C:4](\[C:2](=[C:3]([N:5]([H:11])[H:12])[N:6]([H:13])[H:14])[O:9][H:10])[N:7]([H:15])[H:16])[H:17])([H:18])([H:19])[H:20]>>[C:1]([C:8]1([H:17])[C:3]([N:5]([H:11])[H:12])([N:6]([H:13])[H:14])[C:2]([O:9][H:10])=[C:4]1[N:7]([H:15])[H:16])([H:18])([H:19])[H:20],43.11677999996746
MR_249056_0,[C:1]1([C:3]([H:12])([H:13])[H:14])([O:5][C:4]([O:7][H:9])=[O:8])[C:2]([H:10])([H:11])[O:6]1>>[C:1]([C:2]([O:6][C:4]([O:7][H:9])=[O:8])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])=[O:5],43.01700750000535
MR_66971_0,[C:1](/[N:2]=[N:4]/[H:9])([C:3]([N:5]([H:10])[H:11])([O:6][H:8])[H:7])([H:12])[H:13]>>[C:1]([N:2]([N:4]([H:8])[H:9])[H:7])([C:3]([N:5]([H:10])[H:11])=[O:6])([H:12])[H:13],52.45335250000792
MR_105735_1,[C:1]1([H:9])([H:10])[C:4]([C:2]([H:11])([H:12])[H:13])([N:7]([C:3]([H:14])([H:15])[H:16])[O:6][H:8])[O:5]1>>[C:1]([C:3]([H:14])([H:15])[H:16])([O:5]/[C:4]([C:2]([H:11])([H:12])[H:13])=[N:7]/[O:6][H:8])([H:9])[H:10],66.49868499996643
MR_652879_0,[N:1]([N:2]([H:7])[H:8])([N:3][O:5])[N:4][O:6]>>[N:1]([N:2]([H:7])[H:8])[N:3][O:5][N:4]=[O:6],12.554392500013163
MR_4196_0,[C:1](/[C:4]([C:3]([H:13])([H:14])[H:15])=[N:6]/[C:2]([H:10])([H:11])[H:12])([O:5][H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C:4]([C:3]([H:13])([H:14])[H:15])([N:6]([C:2]([H:10])([H:11])[H:12])[H:7])[O:5]1,34.670002499998986
MR_687864_1,[C:1]([C:2]([H:13])([H:14])[H:15])(/[C:3]([N:4]([H:11])[H:12])=[N:6]\[O:5][H:9])([N:7]=[O:8])[H:10]>>[C:1](\[C:2]([H:13])([H:14])[H:15])(=[C:3](\[N:4]([H:11])[H:12])[N:6]([O:5][H:9])[N:7]=[O:8])[H:10],25.63149249999072
MR_121045_1,[C:1]([C:5]([C:2]([H:19])([H:20])[H:21])=[C:9]([C:4](=[C:3]([N:6]([H:10])[H:11])[N:7]([H:12])[H:13])[N:8]([H:14])[H:15])[H:16])([H:17])([H:18])[H:22]>>[C:1]([C:5]1([C:2]([H:19])([H:20])[H:21])[C:3]([N:6]([H:10])[H:11])([N:7]([H:12])[H:13])[C:4]([N:8]([H:14])[H:15])=[C:9]1[H:16])([H:17])([H:18])[H:22],43.589915000021335
MR_517006_1,[C:1]1([C:2]([H:13])([H:14])[H:15])([N:7]([H:10])[H:11])[C:5]2([C:3]([H:16])([H:17])[H:18])[C:6]1([C:4]([H:19])([H:20])[H:21])[C:8]([H:12])=[N:9]2>>[C:1]1([C:2]([H:13])([H:14])[H:15])([N:7]([H:10])[H:11])[C:5]([C:3]([H:16])([H:17])[H:18])=[N:9][C:8]([H:12])=[C:6]1[C:4]([H:19])([H:20])[H:21],21.513837500007043
MR_458128_1,[N:1]([N:3]([H:8])[H:9])([N:6]=[C:2]([N:4]([H:10])[H:11])[N:5]([H:12])[H:13])[H:7]>>[N:1](=[N:6]/[C:2]([N:3]([H:8])[H:9])([N:4]([H:10])[H:11])[N:5]([H:12])[H:13])\[H:7],53.14799500000191
